US07863446B2
Synthesis of 5-amino-1-[5,6-diphenyl-2-(trifluoromethyl)pyrimidin-4-yl]-3-(methylthio)-N-phenyl-1H-pyrazole-4-carboxamide
A solution of 4-hydrazino-5,6-diphenyl-2-(trifluoromethyl)pyrimidine (0.2 gm, 0.63 mmol) in methanol (6 ml) was heated with 2-cyano-3,3-bis(methylthio)-N-phenylacrylamide (0.5 g, 1.89 mmol), overnight, at 60-65° C. The solid that separated out was filtered and washed with isopropyl alcohol (3 ml) to yield the required product. 1H-NMR (CDCl3) δ: 1.98 (s, 3H), 6.96-7.57 (m, 15H), 7.25-7.30 (2H, D2O exchangeable), 8.86 (br, 1H, D2O exchangeable). MS m/z: 547.1 (M++1).

reactant | 4-hydrazino-5,6-diphenyl-2-(trifluoromethyl)pyrimidine | 0.63 mmol, 0.2 gm | N(N)C1=NC(=NC(=C1C1=CC=CC=C1)C1=CC=CC=C1)C(F)(F)F | C17H13F3N4
reactant | 2-cyano-3,3-bis(methylthio)-N-phenylacrylamide | 1.89 mmol, 0.5 g | C(#N)C(C(=O)NC1=CC=CC=C1)=C(SC)SC | C12H12N2OS2
solvent | methanol | 6 ml | CO | CH4O
product | 5-amino-1-[5,6-diphenyl-2-(trifluoromethyl)pyrimidin-4-yl]-3-(methylthio)-N-phenyl-1H-pyrazole-4-carboxamide | NC1=C(C(=NN1C1=NC(=NC(=C1C1=CC=CC=C1)C1=CC=CC=C1)C(F)(F)F)SC)C(=O)NC1=CC=CC=C1 | C28H21F3N6OS
